US08877805B2
Step 1. Synthesis of 2-formyl-4-thiazolecarboxylic acid ethyl ester
2-(Diethoxymethyl)-4-thiazolecarboxylic acid ethyl ester (2.90 g, 11.8 mmol) synthesized according to Bull. Chem. Soc. Jpn., 58, 352 (1985), which is incorporated herein by reference in its entirety, was dissolved in acetone (37.3 mL), 1N aqueous hydrochloric acid solution (3.73 mL) was added, and the mixture was stirred with heating at 60° C. for 4 hours. After evaporation of the solvent, the mixture was worked up according to a conventional method to give the title compound as a crude product (2.13 g).

reactant | 2-(Diethoxymethyl)-4-thiazolecarboxylic acid ethyl ester | 11.8 mmol, 2.90 g | C(C)OC(=O)C=1N=C(SC1)C(OCC)OCC | C11H17NO4S
reactant | hydrochloric acid | 1N, 3.73 mL | Cl | ClH
solvent | acetone | 37.3 mL | CC(=O)C | C3H6O
product | 2-formyl-4-thiazolecarboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)C=O | C7H7NO3S
